US07229999B2
6-(Cyclopropylmethyl-methyl-amino)-5-(4-fluoro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
The title compound was synthesized in analogy to Example 74, using 5-bromo-6-chloro-nicotinic acid methyl ester, cyclopropylmethyl methylamine hydrochloride, (4-fluoro-phenyl)-boronic acid and (1R,2R)-2-amino-cyclohexanol hydrochloride as starting materials to yield 6-(cyclopropylmethyl-methyl-amino)-5-(4-fluoro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide. MS (ISP) 398.3 (M+H)+.

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | cyclopropylmethyl methylamine hydrochloride | Cl.C1(CC1)CNC
reactant | (4-fluoro-phenyl)-boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | (1R,2R)-2-amino-cyclohexanol hydrochloride | Cl.N[C@H]1[C@@H](CCCC1)O
product | 6-(cyclopropylmethyl-methyl-amino)-5-(4-fluoro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | C1(CC1)CN(C1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=CC=C(C=C1)F)C | C23H28FN3O2
